US05834506
5-(3-Benzyloxy-phenyl)-3-cyclopentyl-3-hydroxy-pentanoic acid tert-butyl ester
Diisopropyl amine (9.56 mL, 68.2 mmol) was dissolved in freshly distilled THF (30 mL) and cooled to -15° C. with a dry ice/acetone bath. 1.6M n-BuLi (42.7 mL, 68.2 mmol) in hexanes was then added dropwise over 20 minutes. The solution was then cooled to -40° C. and allowed to stir for 20 minutes. tert-Butyl acetate (9.2 mL, 68.2 mmol) was then dissolved in freshly distilled THF (20 mL) and added dropwise over 30 minutes to the -40° C. solution. This was allowed to stir for an additional 30 minutes at -40° C. after addition was complete. 3-(3-Benzyloxy-phenyl)-1-cyclopentyl-propan-1-one (10.51 g, 34.1 mmol) from Example YYYY was dissolved in freshly distilled THF (35 mL) and added rapidly to the -40° C. solution, such that the temperature did not exceed -40° C. Monitored reaction with TLC and shown to be complete in 5 minutes. Added glacial acetic acid dropwise (20 mL) to neutralize solution and allowed to warm to room temperature. The majority of THF was removed under reduced pressure and took up remaining organics in EtOAc. The organics were washed with brine, saturated sodium bicarbonate, and again with brine. The organics were dried over MgSO4 and the solvent removed under reduced pressure. The residue was flash chromatographed (15% EtOAc/85% hexane, silica gel) to yield the title compound as a viscous oil. 1H NMR (CDCl3) δ 1.47 (s, 9 H), 1.47-1.69 (br m, 8 H), 1.83 (m, 2 H), 2.08 (m, 1 H), 2.46 (d of ABX q, 1 H), 2.49 (d of ABX q, 1 H), 2.63 (m, 2 H), 3.78 (br s, 1 H), 5.05 (s, 2 H), 6.82 (br m, 3 H), 7.26 (t, 1 H), 7.32-7.46 (br m, 5 H).

reactant | Diisopropyl amine | 68.2 mmol, 9.56 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | 68.2 mmol, 1.6M, 42.7 mL | [Li]CCCC
reactant | tert-Butyl acetate | 68.2 mmol, 9.2 mL | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | 3-(3-Benzyloxy-phenyl)-1-cyclopentyl-propan-1-one | 34.1 mmol, 10.51 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCC(=O)C1CCCC1 | C21H24O2
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(3-Benzyloxy-phenyl)-3-cyclopentyl-3-hydroxy-pentanoic acid tert-butyl ester | C(C)(C)(C)OC(CC(CCC1=CC(=CC=C1)OCC1=CC=CC=C1)(O)C1CCCC1)=O | C27H36O4
